US04197241
3-Ethyl-hexahydro-3-(methoxyphenyl)-2H-azepin-2-one
Lithium diisopropylamide, prepared by adding 15% butyl lithium in hexane (15.7 ml) to diisopropylamine (3.15 ml) at -10° C. under nitrogen, was treated with a solution of hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one in THF. After 30 minutes, ethyl bromide (1.0 ml) was added. The mixture was allowed to warm to ambient temperature. After a further 2 hours the reaction was quenched with water. The organic layer was evaporated to give an oil that crystallised on scratching. The solid was recrystallised from ethyl acetate to give the title compound (1.68 g) m.p. 85°-87° C.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 3.15 ml | C(C)(C)NC(C)C | C6H15N
reactant | hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one | COC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C14H19NO2
reactant | ethyl bromide | 1.0 ml | C(C)Br | C2H5Br
reactant | THF | C1CCOC1 | C4H8O
solvent | hexane | 15.7 ml | CCCCCC | C6H14
product | 3-Ethyl-hexahydro-3-(methoxyphenyl)-2H-azepin-2-one | 1.68 g | C(C)C1(C(NCCCC1)=O)C1=C(C=CC=C1)OC | C15H21NO2
